US07868014B2
Dissolve 2,6-dichloronicotinic acid (1000 mg, 5.21 mmol) in anhydrous tetrahydrofuran (5 mL). Cool to 0° C. Add borane-tetrahydrofuran complex (7.82 mL, 7.82 mmol, 1.0 M in tetrahydrofuran) slowly. Stir the mixture at room temperature overnight. Add water (1 mL) and potassium carbonate, stir for 2 hours, filter and concentrate to give a residue. Chromatograph the residue on silica gel eluting with 10:90 to 20:80 ethyl acetate:hexanes to give (2,6-dichloropyridin-3-yl)-methanol (876 mg, 94%). 1H NMR (400 MHz, MeOH-d4) δ 7.96 (d, 1H, J=8.0 Hz), 7.45 (d, 1H, J=8.0 Hz), 4.64 (s, 2H).

reactant | 2,6-dichloronicotinic acid | 5.21 mmol, 1000 mg | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | borane tetrahydrofuran | 7.82 mmol, 1.0 M, 7.82 mL | B.O1CCCC1
reactant | water | 1 mL | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2,6-dichloropyridin-3-yl)-methanol | 876 mg, 94% | ClC1=NC(=CC=C1CO)Cl | C6H5Cl2NO
